US07465730B2
Utilizing the general procedure outlined in EXAMPLE 85, 1-chloro-6-(4-ethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine and hydrazine (0.10 mL, 0.32 mmol) reacted to give 6-(4-ethoxyphenyl)-1-hydrazino-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine: 1H NMR (CDCl3, 500 MHz) δ 7.03-7.11 (m, 4H), 4.12 (q, 2H), 2.43 (s, 3H), 2.36 (s, 3H), 2.28 (s, 3H), 1.69 (s, 2H), 1.50 (t, 3H); MS (ESI) 312 (M+H)+.

reactant | 1-chloro-6-(4-ethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine | ClC1=NN=C(C=2C1=C(N(C2C)C2=CC=C(C=C2)OCC)C)C | C17H18ClN3O
reactant | hydrazine | 0.32 mmol, 0.10 mL | NN | H4N2
product | 6-(4-ethoxyphenyl)-1-hydrazino-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine | C(C)OC1=CC=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)NN)C | C17H21N5O
